US04191762
To a suspension of 2-methyl-7-[2-(2-aminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride, which can be represented as 2-methyl-7-[2-(2-imino-2,3-dihydrothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride, (3.80 g.) in methanol (70 ml.) was added 1 N sodium hydroxide aqueous solution (18.8 ml.) under ice-cooling and stirring. To the mixture was added sodium borohydride (0.13 g.) over 20 minutes under ice-cooling and stirring and the mixture was stirred for 30 minutes at the same temperature. After the reaction, methanol was distilled off from the reaction mixture. To the residue was added cold water (60 ml.), and the mixture was washed with ethyl acetate, adjusted to pH 2 with 10% hydrochloric acid and then filtered. The filtrate was subjected to column chromatography (non-ionic adsorption resin, Diaion HP 20 prepared by Mitsubishi Chemical Industries) and the column was washed with water and then eluted with 10% aqueous isopropyl alcohol solution. The eluates containing the object compound were collected and then lyophilized to produce pale yellow powder. (1.80 g.). To the powder were added methanol (10 ml.) and 35% hydrochloric acid (0.5 g.) in turn, and thus obtained solution was subjected to column chromatography using activated carbon (2.0 g.) and then the column was eluted with methanol. The eluates containing the object compound were collected and then the solvent was distilled off under reduced pressure. The residue was washed with ethyl acetate and then dried to give 2-methyl-7-[2-hydroxy-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride, which can be represented as 2-methyl-7-[2-hydroxy-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride, (1.10 g.), mp >250° C.

reactant | 2-methyl-7-[2-(2-aminothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)N)=O)=O
reactant | 2-methyl-7-[2-(2-imino-2,3-dihydrothiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=N)=O)=O
reactant | sodium hydroxide | 1 N, 18.8 ml | [OH-].[Na+]
reactant | sodium borohydride | 0.13 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.5 g | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-methyl-7-[2-hydroxy-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)O)=O)=O | InChI=1S/C13H14N4O5S2.ClH/c1-4-2-6(12(21)22)17-10(20)7(11(17)24-4)16-9(19)8(18)5-3-23-13(14)15-5;/h2-4,7-8,11,18H,1H3,(H2,14,15)(H,16,19)(H,21,22);1H/t4?,7?,8?,11-;/m1./s1
